US08877782B2
(4,4-Difluoro-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using 4,4-difluoropiperidine hydrochloride (1 M in DMF) instead of methylamine, to the title compound (131 mg, 98%) which was obtained as a light yellow gum. MS: m/e=414.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 4,4-difluoropiperidine hydrochloride | 1 M | Cl.FC1(CCNCC1)F
product | (4,4-Difluoro-piperidin-1-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 131 mg, 98% | FC1(CCN(CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)F | C22H21F2N3O3
